US03997590
To a cooled solution of sodium ethoxide (from 2.3 g. sodium and absolute ethanol, 30 ml.) was added with shaking ethyl 2-methylacetoacetate (14.2 g.). When homogeneous the mixture was treated with ethyl 3-(cyclohexenyl)acrylate (16.8 g.) and then heated under reflux for 18 hrs. After cooling the mixture was diluted with 500 ml. water and extracted with ether and the extracts discarded. The aqueous solution was then acidified with 2N-hydrochloric acid and extracted with ether. After washing the ether solution with water and drying over Na2SO4, evaporation of the solution afforded ethyl 6-(3-cyclohexenyl)-2,4-dioxo-1-methylcyclohexanecarboxylate.

reactant | ethyl 2-methylacetoacetate | 14.2 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | ethyl 3-(cyclohexenyl)acrylate | 16.8 g | C1(=CCCCC1)C=CC(=O)OCC | C11H16O2
reactant | sodium ethoxide | 30 ml, 2.3 g | [O-]CC.[Na+]
product | ethyl 6-(3-cyclohexenyl)-2,4-dioxo-1-methylcyclohexanecarboxylate | C1(CC=CCC1)C1CC(CC(C1(C(=O)OCC)C)=O)=O | C16H22O4
